US06380218B1
2-[3-(1-Hydroxy-1-methyl-ethyl)-phenoxy]-N-pyridin-4-ylmethyl-nicotinamide
To a solution of 2-(3-Acetyl-phenoxy)-N-pyridin-4-ylmethyl-nicotinamide (0.180 grams, 0.51 mmole) in tetrahydrofuran (20 ml) at −78° C. 1.0 M methyl lithium in THF/cumene (1.14 ml, 1.14 mmole) was added and stirred at −78° C. for 1 hour. The reaction was quenched with water and diluted with ethyl acetate. The organics were washed with water and brine, dried over MgSO4, filtered and concentrated to give a product which was purified by chromatography on silica eluting with ethyl acetate to give a white foam. MS (m/e) 364 (M++1); 1H NMR (CDCl3) d 1.58 (6H, s), 4.70 (2H, d, J=5.81 Hz), 7.0-8.7 (12H, m).

reactant | 2-(3-Acetyl-phenoxy)-N-pyridin-4-ylmethyl-nicotinamide | 0.51 mmole, 0.180 grams | C(C)(=O)C=1C=C(OC2=C(C(=O)NCC3=CC=NC=C3)C=CC=N2)C=CC1 | C20H17N3O3
reactant | methyl lithium | 1.0 M | C[Li]
reactant | THF cumene | 1.14 mmole, 1.14 ml | C1CCOC1.C1(=CC=CC=C1)C(C)C
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-[3-(1-Hydroxy-1-methyl-ethyl)-phenoxy]-N-pyridin-4-ylmethyl-nicotinamide | OC(C)(C)C=1C=C(OC2=C(C(=O)NCC3=CC=NC=C3)C=CC=N2)C=CC1 | C21H21N3O3
